US08377957B2
The method described in Part A of Example 1 was used to treat 2,4-dichloro-3-nitroquinoline (19.4 g, 78.5 mmol) in DMF (100 mL) with triethylamine (32 mL, 0.235 mol) and (S)-(−)-α-methylbenzylamine (11.5 g, 94.2 mmol) with the modification that the reaction was allowed to warm to room temperature and stirred for two hours. After the isolated precipitate was washed with water, it was dried under high vacuum overnight to provide 25.1 g of 2-chloro-3-nitro-N-[(1S)-1-phenylethyl]quinolin-4-amine as an orange solid.

reactant | 2,4-dichloro-3-nitroquinoline | 78.5 mmol, 19.4 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | triethylamine | 0.235 mol, 32 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-(−)-α-methylbenzylamine | 94.2 mmol, 11.5 g | C[C@@H](C1=CC=CC=C1)N | C8H11N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-chloro-3-nitro-N-[(1S)-1-phenylethyl]quinolin-4-amine | 25.1 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])N[C@@H](C)C1=CC=CC=C1 | C17H14ClN3O2
